US05623073
A mixture of 2-amino-1-(2-morpholinoethyl) benzimidazole (10 mmol, 2.46 g) and 4-hydroxyphenacyl bromide (10 mmol, 2.15 g) (obtained by bromination of para-hydroxyacetophenone with cupric bromide in a mixture of chloroform and ethyl acetate) is heated at reflux for 1 hour in 10 ml of dimethylformamide. After cooling, the mixture is poured into 50 ml of water and rendered alkaline with ammonium hydroxide. The resulting oil is removed and treated with water. The crystallised residue is filtered, dried, and recrystallised from ethanol.

reactant | 2-amino-1-(2-morpholinoethyl) benzimidazole | 10 mmol, 2.46 g | NC1=NC2=C(N1CCN1CCOCC1)C=CC=C2 | C13H18N4O
reactant | 4-hydroxyphenacyl bromide | 10 mmol, 2.15 g | OC1=CC=C(C(CBr)=O)C=C1 | C8H7BrO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | para-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
